data/oMe_Silver.jsonl
{"reaction_id": "NR-134_1-c1ccccc1_2-C1CC(O[Si](C)(C)C)CCC1","name": "Lombardo Methylenation","level": "medium","reactants_smiles": ["C(=O)(c1ccccc1)(C1CC(O[Si](C)(C)C)CCC1)","C(Br)Br","[Zn]","Cl[Ti](Cl)(Cl)Cl"],"products_smiles": ["C(=C)(c1ccccc1)(C1CC(O[Si](C)(C)C)CCC1)"],"conditions": "CH2Br2, Zn, TiCl4","mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "BrC[Zn]Br","rationale": "Zn inserts into the C–Br bond of CH2Br2 via oxidative addition due to the polarizable C–Br bond and Zn’s reducing ability, forming an organozinc intermediate."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "Br[Zn]C[Zn]Br","rationale": "A second oxidative addition to CH2Br2 occurs because Zn can further activate the methylene carbon, producing a geminal bis(zinc) species with enhanced nucleophilicity."},{"step": 3,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "Br[Zn]C[Ti](Cl)(Cl)Cl","rationale": "The organozinc transfers the methylene fragment to TiCl4 via electrophilic substitution, favored by Ti’s strong Lewis acidity and the good leaving ability of Zn–Br."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(O[Ti](Cl)(Cl)Cl)(c1ccccc1)(C1CC(O[Si](C)(C)C)CCC1)C[Zn]Br","rationale": "The titanium–carbene species adds nucleophilically to the carbonyl carbon, driven by the electrophilicity of the carbonyl and stabilization of the alkoxide by Ti coordination."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C)(c1ccccc1)(C1CC(O[Si](C)(C)C)CCC1)","rationale": "Elimination occurs as the alkoxide–Ti complex collapses, expelling Ti–O and forming the C=C bond, driven by the thermodynamic stability of the alkene."}],"description": "In the Lombardo methylenation, Zn activates CH2Br2 to form a zinc carbenoid, which is then transferred to TiCl4 to generate a titanium–carbene species. This electrophilic carbene adds to the carbonyl, and elimination yields the alkene."}
{"reaction_id": "NR-215_1-F_2-C_3-c2ccccc2_4-C_5-c2ccccc2_6-Cc2ccccc2_7-c2ccc(C(F)(F)F)cc2","level": "hard","name": "Pechmann Condensation","reactants_smiles": ["c1ccccc1O(F)","O=C(C(C)(c2ccccc2)(C))CC(=O)OC(c2ccccc2)(Cc2ccccc2)(c2ccc(C(F)(F)F)cc2)"],"products_smiles": ["C(C)(c2ccccc2)(C)C1=CC(=O)Oc2c(F)cccc21"],"conditions": "acid","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "O=C(C(C)(c2ccccc2)(C))CC(=O)Oc1c(F)cccc1","step_weight": 0,"rationale": "Acidic conditions protonate the ester, increasing electrophilicity of the carbonyl carbon, allowing phenol oxygen to attack and displace the original alkoxy group via nucleophilic acyl substitution."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH+]=C(C(C)(c2ccccc2)(C))CC(=O)Oc1c(F)cccc1","step_weight": 0,"rationale": "Proton transfer to the β-keto carbonyl oxygen increases its electrophilicity, facilitating subsequent intramolecular attack by activating the carbonyl for cyclization."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "OC(C(C)(c2ccccc2)(C))1CC(=[O])O[C+]2C(F)=CC=CC21","step_weight": 0,"rationale": "The activated β-keto carbonyl undergoes intramolecular electrophilic attack by the aromatic ring, favored by resonance stabilization of the resulting carbocation intermediate."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(C(C)(c2ccccc2)(C))1CC(=[OH+])Oc2c(F)cccc21","step_weight": 0,"rationale": "Proton transfer to the hydroxyl oxygen adjacent to the ring oxygen increases leaving group ability, preparing for dehydration and restoring aromaticity."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "OC(C(C)(c2ccccc2)(C))1C=C(O)Oc2c(F)cccc21","step_weight": 0,"rationale": "Loss of water occurs because the protonated hydroxyl is a good leaving group, and elimination forms the conjugated coumarin system, stabilized by extended π-conjugation."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(c2ccccc2)(C)C1=CC(=O)Oc2c(F)cccc21","step_weight": 0,"rationale": "Final deprotonation restores neutrality and aromaticity, yielding the thermodynamically stable coumarin product."}],"description": "Under acidic conditions, the phenol and β-keto ester undergo Pechmann condensation. Acid catalysis activates the carbonyls toward nucleophilic attack, enabling ester exchange, intramolecular electrophilic substitution, and cyclization. Proton transfers facilitate intermediate stabilization, and elimination yields the coumarin core with substituents from both reactants."}
